US07741323B2
1-(3-Benzyloxyphenyl)ethanone (218 g, 966.10 mmol) was dissolved in diethyl carbonate and sodium hydride (60% oil) (46.37 g, 1.15 mmol) was slowly added thereto at 0° C., and then stirred for 3 hours at 60° C. After the reaction was completed, ice water and acetic acid were added to the reaction mixture, extracted with ethyl acetate/saturated sodium chloride, the organic layer was separated, and dried over anhydrous magnesium sulfate. The solvent was removed under a reduced pressure and the resulting residue was purified by column chromatography (ethyl acetate:hexane=1:10) to obtain 3-(3-benzyloxyphenyl)-3-oxopropionate ethyl ester (184.68 g, yield 84%) in an oil state.

reactant | 1-(3-Benzyloxyphenyl)ethanone | 966.10 mmol, 218 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(C)=O | C15H14O2
reactant | sodium hydride | 1.15 mmol, 46.37 g | [H-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | diethyl carbonate | C(OCC)(OCC)=O | C5H10O3
product | 3-(3-benzyloxyphenyl)-3-oxopropionate ethyl ester | 184.68 g, yield 84% | C(C)OC(CC(=O)C1=CC(=CC=C1)OCC1=CC=CC=C1)=O | C18H18O4
